US05288730
To a stirred solution of 2-benzylidene-3-oxo-1-azabicyclo[2.2.2]octane (10 g) in diethyl ether (200 ml) at -10° C. under a nitrogen atmosphere was added a solution of 2M-benzylmagnesium chloride (30 ml, in tetrahydrofuran, 50 mmol) and diethyl ether (100 ml). The solution was stirred at -10° C. for 30 minutes and at ambient temperature for 16 h. A saturated solution of aqueous ammonium chloride (200 ml) was carefully added and the product extracted into ethyl acetate. The organic phase was dried (MgSO4) and evaporated to dryness. The residue was chromatographed on a column containing silica gel 60 (220-440 mesh ASTM) eluting with mixtures of 30%, 50% and 70% ethyl acetate in petroleum ether (bp 60°-80° C.). 2-(1,2-diphenylethyl)-3-oxo1- azabicyclo [2.2.2]octane was obtained as 1:1 mixture of stereoisomers by evaporating the appropriate fractions.

reactant | 2-benzylidene-3-oxo-1-azabicyclo[2.2.2]octane | 10 g | C(C1=CC=CC=C1)=C1N2CCC(C1=O)CC2 | C14H15NO
reactant | benzylmagnesium chloride | 50 mmol, 30 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(1,2-diphenylethyl)-3-oxo1- azabicyclo [2.2.2]octane | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1N2CCC(C1=O)CC2 | C21H23NO
